US08431599B2
Prepared in accordance with Method B with methyl isocyanoacetate (1.00 g, 10.10 mmol) and dihydro-1H-pyrrole (1.01 mL, 15.15 mmol). The reaction mixture was stirred 5 h at 50° C. and concentrated. The residue was dissolved in dichloromethane (50 mL) and the organic layer was washed with 10% aqueous citric acid (2×25 mL), dried over MgSO4, filtered and evaporated. 2-Isocyano-1-(2H-pyrrol-1(5H)-yl) ethanone SLA 07178 was obtained (1.0 g, 73% yield) as a yellow solid.

reactant | methyl isocyanoacetate | 10.10 mmol, 1.00 g | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | dihydro-1H-pyrrole | 15.15 mmol, 1.01 mL | N1CCC=C1 | C4H7N
product | 2-Isocyano-1-(2H-pyrrol-1(5H)-yl) ethanone | 73% yield | [N+](#[C-])CC(=O)N1CC=CC1 | C7H8N2O
